US09382238B2
To a mixture of ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate (100 mg, 0.145 mmol) in THF (5 mL) was added LAH (5.50 mg, 0.145 mmol) at 0° C. The mixture was stirred for 1 h. LCMS and TLC (PE/EA=1:1, Rf=0.2) showed the reaction was finished. The reaction was quenched by water (0.3 mL). The mixture was filtered, and the filtrate was concentrated to give N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (80 mg, 0.104 mmol, 71.6% yield): 1H NMR (400 MHz, CD3OD-d4) δ 8.01 (s, 1H), 7.94 (d, J=2.0 Hz, 1H), 7.77 (d, J=8.6 Hz, 1H), 7.52 (d, J=8.8 Hz, 1H), 7.47-7.27 (m, 6H), 6.90 (d, J=8.8 Hz, 2H), 5.35 (s, 2H), 4.22-4.11 (m, 2H), 3.82-3.75 (m, 3H), 3.67 (t, J=13.0 Hz, 2H), 3.47-3.37 (m, 2H), 3.37-3.34 (m, 2H), 1.41 (t, J=7.1 Hz, 3H). ES-LCMS m/z 649 (M+H).

reactant | ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-difluoropropanoate | 0.145 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(F)F)C(F)(F)F)F | C35H32F6N2O6
reactant | LAH | 0.145 mmol, 5.50 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.104 mmol, 80 mg, 71.6% yield | FC(CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F)(CO)F | C33H30F6N2O5
